US05130309
1,3-dichloro-2-diphenylmethoxypropane
A stirred solution of 508 g (2.5 mol) of diphenylmethylchloride and 387 g (3 mol) of 1,3-dichloro-2-propanol in 700 mL of dry toluene was heated at reflux temperature for 72 hr. The reaction mixture was concentrated in vacuo and the residual oil distilled to give 587 g (80%) of colorless oil; bp 137°-140° C./0.1 mm.

reactant | diphenylmethylchloride | 2.5 mol, 508 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)Cl | C13H11Cl
reactant | 1,3-dichloro-2-propanol | 3 mol, 387 g | ClCC(CCl)O | C3H6Cl2O
solvent | toluene | 700 mL | C1(=CC=CC=C1)C | C7H8
product | 1,3-dichloro-2-diphenylmethoxypropane | 587 g, 80% | ClCC(CCl)OC(C1=CC=CC=C1)C1=CC=CC=C1 | C16H16Cl2O
